US08183380B2
4-Hydroxymethyl-piperidine-1-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide
4-(Tetrahydro-pyran-2-yloxymethyl)-piperidine-1-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide (0.070 g) was dissolved in methanol (1 mL). Pyridinium toluene-4-sulfonate (11.0 mg) was added and the reaction mixture stirred at 55° C. for 1 h. The reaction mixtures was diluted with water and extracted with ethyl acetate. The combined organic phases were dried on sodium sulfate, evaporated and the residue was subjected to column chromatography (silica gel, dichloro methane:methanol gradient=100:0→90:10) to yield the title compound (35 mg; 60%) as an off-white solid; MS: m/e=416.7 (M+H+).

reactant | 4-(Tetrahydro-pyran-2-yloxymethyl)-piperidine-1-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide | 0.070 g | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)N1CCC(CC1)COC1OCCCC1 | C30H36N4O3
reactant | Pyridinium toluene-4-sulfonate | 11.0 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | 1 mL | CO | CH4O
solvent | water | O | H2O
product | 4-Hydroxymethyl-piperidine-1-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide | 35 mg, 60% | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)N1CCC(CC1)CO | C25H28N4O2
